US06124341
2,6-Diethyl-4-nitroaniline
To a stirred solution of 2,6-diethylaniline (5.0 g, 34 mmol) in concentrated sulfuric acid (30 mL) at 0° C. was added dropwise concentrated nitric acid (15.9M, 2.10 mL, 34 mmol). The cooling bath was removed, and the reaction was stirred for 3 hours at ambient temperature. After pouring the reaction mixture into ice, the solution was neutralized using 4N sodium hydroxide and extracted with methylene chloride (3×50 mL). The extracts were dried with sodium sulfate, and solvents were removed in vacuo to give the title compound.

reactant | 2,6-diethylaniline | 34 mmol, 5.0 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | nitric acid | 34 mmol, 15.9M, 2.10 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 2,6-Diethyl-4-nitroaniline | C(C)C1=C(N)C(=CC(=C1)[N+](=O)[O-])CC | C10H14N2O2
